US08461182B2
Step R1-3: To a suspension of 2-oxo-1,2,3,4-tetrahydroquinoline-7-carbonitrile (160 g) in HCO2H (1.6 L) was added Raney Nickel Catalyst (slurry in water, 160 g) at room temperature over 30 minutes. The mixture was heated at 100° C. for 2 hours. After cooling to room temperature, the reaction mixture was filtrated through a pad of Celite and washed with HCO2H. The filtrate was concentrated to obtain a solid. The solid was stirred with water (1.3 L) and filtrated to obtain 2-oxo-1,2,3,4-tetrahydroquinoline-7-carbaldehyde as a pale brown solid (156 g).

reactant | 2-oxo-1,2,3,4-tetrahydroquinoline-7-carbonitrile | 160 g | O=C1NC2=CC(=CC=C2CC1)C#N | C10H8N2O
reactant | water | 1.3 L | O | H2O
solvent | HCO2H | 1.6 L | C(=O)O | CH2O2
catalyst | Raney Nickel | 160 g | [Ni] | Ni
product | 2-oxo-1,2,3,4-tetrahydroquinoline-7-carbaldehyde | 156 g | O=C1NC2=CC(=CC=C2CC1)C=O | C10H9NO2
